US07541374B2
1.10 g of 3-(1,1-dimethylpropyl)-1H-1,2,4-triazole1-ylmethanol was dissolved to 18 ml of dichloromethane. 1.8 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for 8 hours. The reaction mixture was concentrated under reduced pressure to obtain 1.47 g of 1-(chloromethyl)-3-(1,1-dimethylpropyl)-1H-1,2,4-triazole hydrochloride.

reactant | 3-(1,1-dimethylpropyl)-1H-1,2,4-triazole1-ylmethanol | 1.10 g | CC(CC)(C)C1=NN(C=N1)CO | C8H15N3O
reactant | thionyl chloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-(1,1-dimethylpropyl)-1H-1,2,4-triazole hydrochloride | 1.47 g | Cl.ClCN1N=C(N=C1)C(CC)(C)C | InChI=1S/C8H14ClN3.ClH/c1-4-8(2,3)7-10-6-12(5-9)11-7;/h6H,4-5H2,1-3H3;1H
